US06124323
A mixture of 6-(2-benzyloxy-ethoxy)-1-methyl-1,3-dihydro-benzoimidazol-2-one (0.69 g, 2.31 mmol) and 20% palladium on carbon (0.10 g) in methanol (10 ml) and tetrahydrofuran (10 ml) was stirred under a hydrogen atmosphere (1 atm) for 2 h. After removal of the catalyst, the catalyst was washed with boiling methanol (50 ml). The filtrate was evaporated to give 6-(2-hydroxy-ethoxy)-1-methyl-1,3-dihydro-benzoimidazol-2-one (0.46 g, 96%) as a solid. 1H NMR (DMSO) 10.54 (1H, s), 6.78 (1H, d, J=8.3), 6.70 (H, d, J=632.2), 6.50 (1H, dd, J=8.3, 2.4), 4.79 (1H, t, J=5.6), 3.90 (2H, t, J=5.0), 3.64 (2H, q, J=5.2), 3.18 (3H, s).

reactant | 6-(2-benzyloxy-ethoxy)-1-methyl-1,3-dihydro-benzoimidazol-2-one | 2.31 mmol, 0.69 g | C(C1=CC=CC=C1)OCCOC=1C=CC2=C(N(C(N2)=O)C)C1 | C17H18N2O3
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-(2-hydroxy-ethoxy)-1-methyl-1,3-dihydro-benzoimidazol-2-one | 0.46 g, 96% | OCCOC=1C=CC2=C(N(C(N2)=O)C)C1 | C10H12N2O3
